US07935699B2
But-2-yne-1,4-diol (8.78 g, 102 mmol), phthalimide (5.00 g, 33.98 mmol) and triphenylphosphine (8.91 g, 33.98 mmol) were combined and dissolved in tetrahydrofuran (165 mL) and then chilled to 0° C. While stirring, diisopropyl azodicarboxylate (10 mL, 50.97 mmol) was added dropwise. The ice bath was removed and the reaction continued to stir at 25° C. for 16 h. The reaction was concentrated in vacuo to give a thick golden oil. Purification by flash column chromatography (Merck silica gel 60, 40-63 μm; 10% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded 2-(4-hydroxy-but-2-ynyl)-isoindole-1,3-dione (2.83 g, 39%) as a white powder: ESI-LRMS m/e calcd for C12H9NO3 [M+] 215.1, found 216.3 [M+H+], 431.6 [2M+H+].

reactant | But-2-yne-1,4-diol | 102 mmol, 8.78 g | C(C#CCO)O | C4H6O2
reactant | phthalimide | 33.98 mmol, 5.00 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 33.98 mmol, 8.91 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 50.97 mmol, 10 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 165 mL | O1CCCC1 | C4H8O
product | 2-(4-hydroxy-but-2-ynyl)-isoindole-1,3-dione | 2.83 g, 39% | OCC#CCN1C(C2=CC=CC=C2C1=O)=O | C12H9NO3
